US04505905
To a solution of 50 g of 6,6-dichloro-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester, from Example 4, in 75 mL of tetrahydrofuran, was added 500 mL of acetic acid and 100 g of zinc dust. This mixture was stirred mechanically for 6 hr at room temperature and then diluted with 1 L of methylene chloride and filtered. The filtrate was evaporated to a residue which was partitioned between methylene chloride and water. The organic layer was washed with brine, dried over sodium sulfate, and evaporated to give a colorless solid which, when triturated with 150 mL of ether-petroleum ether (1:1), afforded 35.1 g (85.5%) of crystalline 7-oxobicyclo[3.2.0]hept-2-ene-2-carboxylic acid diphenylmethyl ester: IR (Nujol mull): 1625, 1715, 1785 cm-1 ; NMR (220 MHz; CDCl3): δ 2.57 (1H, m), 2.89 (3H, m), 3.27 (1H, m), 4.48 (1H, m), 6.80 (1H, s), 6.86 (1H, m) and 7.1-7.4 (10H, m).

reactant | 6,6-dichloro-7-oxobicyclo[3.2.0]hept-2-en-2-carboxylic acid, diphenylmethyl ester | 50 g | ClC1(C2CC=C(C2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C21H16Cl2O3
reactant | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
catalyst | zinc | 100 g | [Zn] | Zn
product | 7-oxobicyclo[3.2.0]hept-2-ene-2-carboxylic acid diphenylmethyl ester | 35.1 g, 85.5% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C=1C2C(CC2CC1)=O | C21H18O3
